US07728144B2
Biphenyl-2-ylcarbamic acid 1-{2-[(4-formyl-2-methoxybenzoyl)methylamino]ethyl}piperidin-4-yl Ester
To a stirred solution of biphenyl-2-ylcarbamic acid 1-{2-[(4-hydroxymethyl-2-methoxybenzoyl)methylamino]ethyl}piperidin-4-yl ester (78 mg, 1.5 mmol; prepared as described in Preparation 20) in DCM (2.5 mL) at −15° C. was added DMSO (130 μL, 22.5 mmol), and DIPEA (130 μL, 7.5 mmol). To the solution was added sulfur trioxide-pyridine complex (240 mg, 15 mmol). After 30 minutes, the reaction mixture was quenched with water (˜3 mL). Two layers were separated, the organic layer was dried over MgSO4, filtered and the title intermediate was used directly in the next reaction.

reactant | biphenyl-2-ylcarbamic acid 1-{2-[(4-hydroxymethyl-2-methoxybenzoyl)methylamino]ethyl}piperidin-4-yl ester | 1.5 mmol, 78 mg | OCC1=CC(=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1)OC | C30H35N3O5
reactant | DMSO | 22.5 mmol, 130 μL | CS(=O)C | C2H6OS
reactant | DIPEA | 7.5 mmol, 130 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic acid 1-{2-[(4-formyl-2-methoxybenzoyl)methylamino]ethyl}piperidin-4-yl Ester | C(=O)C1=CC(=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1)OC | C30H33N3O5
